US09278968B2
Under a nitrogen atmosphere, a mixture of 5.0 g of 3-[(2,6-difluorobenzyl)oxy]pyridin-2-amine, 4.1 ml of ethyl 2-chloroacetoacetate, 3.5 ml of 2,6-dimethylpyridine, and 50 ml of toluene was stirred at 130° C. for 24 hours. After leaving to be cooled to room temperature, the reaction mixture was washed with water, a 1 M aqueous sodium hydroxide solution, a 10% aqueous citric acid solution, and a saturated aqueous sodium chloride solution. The organic layer was concentrated under reduced pressure to obtain 5.47 g of ethyl 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylate.

reactant | 3-[(2,6-difluorobenzyl)oxy]pyridin-2-amine | 5.0 g | FC1=C(COC=2C(=NC=CC2)N)C(=CC=C1)F | C12H10F2N2O
reactant | ethyl 2-chloroacetoacetate | 4.1 ml | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | 2,6-dimethylpyridine | 3.5 ml | CC1=NC(=CC=C1)C | C7H9N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylate | 5.47 g | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)OCC)C(=CC=C1)F | C18H16F2N2O3
